US08222416B2
To a −78° C. solution of 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (2.3 g, 4.92 mmol) in dry tetrahydrofuran (50 mL) was added lithium bis(trimethylsilyl)amide (7.7 ml, 7.7 mmol) and the mixture was stirred for 45 min at −78° C. then a solution of p-toluenesulfonic anhydride (3 g, 9.2 mmol) in dry tetrahydrofuran (15 mL) was added. The mixture was stirred at −78° C. for 1 h and then quenched with brine. The mixture was extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afford toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester (2.4 g, 76%) as a white solid: LC/MS m/e calcd for C32H34N2O7S2 [M+H]+ 623.76, observed 623.3.

reactant | 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 4.92 mmol, 2.3 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(CC2CCCC2)=O | C25H28N2O5S
reactant | lithium bis(trimethylsilyl)amide | 7.7 mmol, 7.7 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 9.2 mmol, 3 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester | 2.4 g, 76% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C32H34N2O7S2
